US07638541B2
Step 4: 4-(4-Ethoxycarbonyl-thiazol-2-yl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-methyl-4-thiocarbamoyl-piperidine-1-carboxylic acid tert-butyl ester (1 g, 4 mmol) in EtOH (10 mL) was added ethyl bromopyruvate (0.78 g, 4 mmol) at room temperature. The mixture was heated to refluxing for 3 hours. After cooling to room temperature, the solvent was removed in vacuo. The residue was dissolved in methylene chloride (15 mL), Et3N (1 mL) and di-tert-butyl dicarbonate (1.3 g) were added to the solution. The mixture was stirred at room temperature overnight. The mixture was washed with H2O and brine. After drying (Na2SO4), the solvent was removed in vacuo, and the residue was purified by silica column chromatography with EtOAc/hexanes to afford the desired product.

reactant | 4-methyl-4-thiocarbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 4 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(N)=S)C | C12H22N2O2S
reactant | ethyl bromopyruvate | 4 mmol, 0.78 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-(4-Ethoxycarbonyl-thiazol-2-yl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C=1SC=C(N1)C(=O)OCC | C17H26N2O4S
